US07067675B2
3-[5-(4-fluorophenyl)-1,5-dioxopentyl]-4-phenyl-2-oxazolidinone (100 gm) is dissolved in toluene (750 ml), the mixture of (−)-β-chlorodiisopinocampheylborane ((−)-DIP chloride) in heptane (545 ml, 1.5M) and toluene (750 ml) is added at 0° C. to 5° C. for 1 hour. The reaction mixture is stirred for 15 hours at 25° C. to 30° C. and 340 ml of 10% sodium chloride is then added at the same temperature. The layers are separated and the organic layer is washed with 5% sodium bicarbonate (300 ml), 1N sulfuric acid (300 ml), and 10% sodium chloride (300 ml). Then the organic layer is dried on sodium sulfate to give 3-[(5S)-5-(4-fluorophenyl)-5-hydroxy-1-oxopentyl]-4-phenyl-2-oxazolidinone in 96% yield.

reactant | 3-[5-(4-fluorophenyl)-1,5-dioxopentyl]-4-phenyl-2-oxazolidinone | 100 gm | FC1=CC=C(C=C1)C(CCCC(=O)N1C(OCC1C1=CC=CC=C1)=O)=O | C20H18FNO4
reactant | (−)-DIP chloride | B([C@@H]1C[C@@H]2C[C@H]([C@H]1C)C2(C)C)([C@@H]3C[C@@H]4C[C@H]([C@H]3C)C4(C)C)Cl | C20H34BCl
reactant | sodium chloride | 340 ml | [Cl-].[Na+]
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
solvent | heptane | 1.5M, 545 ml | CCCCCCC | C7H16
solvent | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[(5S)-5-(4-fluorophenyl)-5-hydroxy-1-oxopentyl]-4-phenyl-2-oxazolidinone | 96% yield | FC1=CC=C(C=C1)[C@H](CCCC(=O)N1C(OCC1C1=CC=CC=C1)=O)O | C20H20FNO4
